US06583135B2
tert-Butyl 6-[2-(2,3-dimethylanilino)-2-oxoethyl]-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (1.02 g, 2.27 mmol) was disolved in CH2Cl2 (15 mL), then trifluoroacetic acid (3.0 mL, 4.44 g, 38.9 mmol, 17.2 equiv.) was added. The resulting solution was stirred at rt for 1.5 h. The reaction mixture was concentrated to dryness, then the residue was partitioned between EtOAc (100 mL) and 1N NaOH (50 mL). The layers were separated, and the aqueous layer was extracted with EtOAc (50 mL). The combined organic layers were washed with brine (25 mL), dried over MgSO4, filtered, and concentrated. The residue was combined with EtOAc (20 mL) and 1M HCl in Et2O (20 mL), then the salt was collected by filtration. The salt was dried under vacuum over P2O5. N-(2,3-dimethylphenyl)-2-(2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)acetamide hydrochloride (0.7739 g) was obtained in 89% yield. 1H NMR (300 MHz, CD3OD) δ 2.11, 2.29, 3.23-3.26, 3.32-3.35, 3.47-3.56, 5.12, 7.06-7.15, 7.22, 7.44, 7.53; MS (ESI+) for C22H25N3O m/z 348.3 (M+H)+.

reactant | tert-Butyl 6-[2-(2,3-dimethylanilino)-2-oxoethyl]-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 2.27 mmol, 1.02 g | CC1=C(NC(CN2C3=C(C=4C=CC=CC24)CCN(CC3)C(=O)OC(C)(C)C)=O)C=CC=C1C | C27H33N3O3
reactant | trifluoroacetic acid | 38.9 mmol, 3.0 mL, 4.44 g, 17.2 equiv. | FC(C(=O)O)(F)F | C2HF3O2
reactant | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | N-(2,3-dimethylphenyl)-2-(2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)acetamide hydrochloride | 0.7739 g, 89% yield | Cl.CC1=C(C=CC=C1C)NC(CN1C2=C(C=3C=CC=CC13)CCNCC2)=O | InChI=1S/C22H25N3O.ClH/c1-15-6-5-8-19(16(15)2)24-22(26)14-25-20-9-4-3-7-17(20)18-10-12-23-13-11-21(18)25;/h3-9,23H,10-14H2,1-2H3,(H,24,26);1H
